US06180622B2
d) (3S,5S)-3-Acetylthio-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-3-yl)methyl]pyrrolidine (stereoisomer A)
Potassium thioacetate (134 mg) is added to a solution of 314 mg of (3R,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-3-yl)methyl]-3-methanesulfonyloxypyrrolidine (stereoisomer A) in a mixture of 4 ml of dry DMF and 2 ml of dry toluene, and the mixture is stirred in an argon atmosphere at a bath temperature of 70° C. for 22 hr. The mixture is diluted with 60 ml of ethyl acetate and washed twice with semi-saturated saline, and the organic layer is dried over magnesium sulfate and filtered. The solvent is removed by evaporation under reduced pressure, and the residue is dried under reduced pressure by means of a vacuum pump. The dark red oil is purified by flash column chromatography on silica gel (ethyl acetate) to give 217 mg of the title compound as a slightly red amorphous material.

reactant | Potassium thioacetate | 134 mg | C(C)(=S)[O-].[K+]
reactant | (3R,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-3-yl)methyl]-3-methanesulfonyloxypyrrolidine | 314 mg | C(C=C)OC(=O)N1C[C@@H](C[C@H]1C(C=1N2C(SC1)=CN=C2)O)OS(=O)(=O)C | C15H19N3O6S2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | (3S,5S)-3-Acetylthio-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-3-yl)methyl]pyrrolidine | 217 mg | C(C)(=O)S[C@@H]1CN([C@@H](C1)C(C=1N2C(SC1)=CN=C2)O)C(=O)OCC=C | C16H19N3O4S2
